US06232271B1
c) 3-Hydrazino-1-methyl-5-methylmercaptopyrazole
At 0° C., 1.1 g (15.8 mmol) of sodium nitrite in 4 ml of water are added dropwise to 1.9 g (13.1 mmol) of 3-amino-1-methyl-5-methylmercaptopyrazole in 18 ml of concentrated hydrochloric acid, and the mixture is stirred at 0° C. for 2 hours. At −30° C., a solution of 7.4 ml (32.8 mmol) of tin dichloride hydrate in 5.5 ml of conc. hydrochloric acid is added dropwise, and the mixture is stirred at this temperature for 3 hours. The mixture is then made alkaline using 32% strength aqueous sodium hydroxide solution and extracted with methylene chloride. The organic phase is dried (sodium sulfate) and the solvent is stripped off, giving 2.0 g of product which can be used without any further purification.

reactant | sodium nitrite | 15.8 mmol, 1.1 g | N(=O)[O-].[Na+]
reactant | 3-amino-1-methyl-5-methylmercaptopyrazole | 13.1 mmol, 1.9 g | NC1=NN(C(=C1)SC)C | C5H9N3S
reactant | tin dichloride hydrate | 32.8 mmol, 7.4 ml | O.[Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | hydrochloric acid | 18 ml | Cl | ClH
solvent | hydrochloric acid | 5.5 ml | Cl | ClH
product | 3-Hydrazino-1-methyl-5-methylmercaptopyrazole | 2.0 g | N(N)C1=NN(C(=C1)SC)C | C5H10N4S
